US05262390
By the method of Example 1, Step K, 1.71 g (0.010 mole) of 3-fluoro-4-nitrophenol and 2.85 g (0.011 mole) of methyl 2-(2-chloromethyl-5-methylphenoxy)propionate were reacted in the presence of 1.66 g (0.012 mole) of anhydrous potassium carbonate in 100 mL of N,N-dimethylformamide, yielding 3.55 g of methyl 2-[2-(3-fluoro-4-nitrophenoxymethyl)-5-methylphenoxy]propionate as a yellowish solid, m.p. 92°-94° C. The NMR and IR spectra were consistent with the proposed structure.

reactant | 3-fluoro-4-nitrophenol | 0.010 mole, 1.71 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | methyl 2-(2-chloromethyl-5-methylphenoxy)propionate | 0.011 mole, 2.85 g | ClCC1=C(OC(C(=O)OC)C)C=C(C=C1)C | C12H15ClO3
reactant | potassium carbonate | 0.012 mole, 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | methyl 2-[2-(3-fluoro-4-nitrophenoxymethyl)-5-methylphenoxy]propionate | 3.55 g | FC=1C=C(OCC2=C(OC(C(=O)OC)C)C=C(C=C2)C)C=CC1[N+](=O)[O-] | C18H18FNO6
